US03969373
To a solution of 5.34 g of 4-formyldihydrocinnamic acid in 50 ml of 1N sodium hydroxide was added a solution of 3.6 g of acetophenone and 20 ml of ethanol. The reaction mixture was stirred at room temperature for 4 hrs. and then poured onto 300 g of crushed ice. 1N Hydrochloric acid was added and, after stirring at 0°C for 15 min., the precipitate was collected and washed with water. The precipitate was dissolved in 500 ml of ethyl acetate, dried over anhydrous sodium sulfate and the drying agent was collected on a filter. The filtrate was concentrated to about 100 ml and seeded with crystalline product. The solid was collected, washed with 1:4-ethyl acetate-ether followed by ether and dried at 70°-75°C under vacuum to give 8.4 g (72%) of 4-(2-carboxyethyl)benzalacetophenone, as yellow needles, m.p. 159°-160°C.

reactant | 4-formyldihydrocinnamic acid | 5.34 g | C(=O)C1=CC=C(CCC(=O)O)C=C1 | C10H10O3
reactant | acetophenone | 3.6 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | sodium hydroxide | 1N, 50 ml | [OH-].[Na+]
product | 4-(2-carboxyethyl)benzalacetophenone | 8.4 g, 72% | C(=O)(O)CCC1=CC=C(C=CC(=O)C2=CC=CC=C2)C=C1 | C18H16O3
